US06423727B1
3.0 g (12.2 mmol) of tyrosine ethyl ester hydrochloride and 2.8 g (12.2 mmol) of N-Boc-cycloleucine are suspended in 10 mL of CH2Cl2. 1.65 g (12.2 mmol) of HOBT, 3.02 g (14.6 mmol) of DCC, and 1.7 mL (12.2 mmol) of Et3N are added, and the solution is stirred at room temperature overnight. The reaction mixture is filtered, and CH2Cl2 is removed in vacuo. The residue is taken up in EtOAc, filtered, and washed successively with 1N HCl, water, saturated aqueous NaHCO3 solution, and brine, then dried over MgSO4, filtered, and concentrated. The residue is purified by chromatography on silica gel (50% EtOAc/hexane) to yield 2-[(1-tert-butoxycarbonylamino-cyclopentanecarbonyl)-amino]-3-(4-hydroxy-phenyl)-propionic acid ethyl ester; 1H NMR (250 MHz, CDCl3) δ7.97 (d, 2 H), 6.7 (d, 2 H), 7.51 (d, 1 H), 5.58 (s, 1 H), 4.70-4.80 (m, 2 H), 4.12 (q, 2 H), 3.02 (d, 2 H), 2.07-2.35 (m, 2 H), 1.60-2.00 (m, 6 H), 1.40 (s, 9 H), 1.20 (t, 3H).

reactant | tyrosine ethyl ester hydrochloride | 12.2 mmol, 3.0 g | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | N-Boc-cycloleucine | 12.2 mmol, 2.8 g | C(=O)(OC(C)(C)C)NC1(CCCC1)C(=O)O | C11H19NO4
reactant | HOBT | 12.2 mmol, 1.65 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 14.6 mmol, 3.02 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Et3N | 12.2 mmol, 1.7 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[(1-tert-butoxycarbonylamino-cyclopentanecarbonyl)-amino]-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)NC(=O)C1(CCCC1)NC(=O)OC(C)(C)C)=O | C22H32N2O6
